US06066331
DMPC:
DMPG at a 9:1 molar ratio were dissolved in tert-butanol in a 1:10 (w:v) ratio and the lipid mixture was pre-warmed to dissolve the lipids completely. An aqueous ribosomal mixture containing 1.5 mg ribosomes/ml (determined by Orcinol) was added to the lipids at a 1:100 w/w final ratio. In some cases Lipid-A was added at this stage as an adjuvant in a 1:1,000 lipid-A to phospholipids molar ratio. This suspension was frozen and lyophilized in aliquouts of 0.5 g phospholipids and the dry powder was stored at -20° C. Prior application liposomes were formed by adding two aliquots of 0.5 ml volume of double distilled, sterile and pyrogen free aqueous solution containing 0.9% NaCl.

reactant | DMPG | CCCCCCCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCCCCCCC | C34H67O10P
reactant | Orcinol | C1(=CC(O)=CC(C)=C1)O | C7H8O2
reactant | Lipid-A | CCCCCCCCCCCCCC(=O)O[C@H](CCCCCCCCCCC)CC(=O)O[C@@H]1[C@H]([C@@H](O[C@@H]([C@H]1OP(=O)(O)O)CO)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)OP(=O)(O)O)NC(=O)C[C@@H](CCCCCCCCCCC)O)OC(=O)C[C@@H](CCCCCCCCCCC)O)O)NC(=O)C[C@@H](CCCCCCCCCCC)OC(=O)CCCCCCCCCCC | C94H178N2O25P2
reactant | NaCl | [Na+].[Cl-]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | DMPC | COC(=O)OC(=O)OC | C4H6O5
